US07569577B2
2-[(3S)-3-({4-[3-chloro-2-fluoroanilino]-6-methoxyquinazolin-7-yl}oxy)piperidin-1-yl]-2-oxoethanol
Using an analogous procedure to that described in Example 5 N-(3-chloro-2-fluorophenyl)-6-methoxy-7-[(3S)-piperidin-3-yloxy]quinazolin-4-amine dihydrochloride (250 mg) was coupled with glycolic acid (0.045 g). The resulting product was purified by flash column chromatography eluting with methanol (3%) and methylene chloride (97%) to give a foam. This was re-precipitated by stirring in diethyl ether (20 ml) to give the title product as a white solid (0.105 g); 1H NMR Spectrum: (DMSO d6 373K) 1.59 (m, 1H), 1.87 (m, 2H), 2.09 (m, 1H), 3.40-3.60 (m, 4H), 3.86 (m, 1H), 3.98 (s, 3H), 4.044.18 (m, 2H), 4.66 (m, 1H), 7.24 (m, 1H), 7.31 (s, 1H), 7.40 (m, 1H), 7.60 (m, 1H), 7.80 (s, 1H), 8.38 (s, 1H), 9.30 (br s, 1H); Mass Spectrum: (M+H)+ 461.

reactant | N-(3-chloro-2-fluorophenyl)-6-methoxy-7-[(3S)-piperidin-3-yloxy]quinazolin-4-amine dihydrochloride | 250 mg | Cl.Cl.ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC)O[C@@H]1CNCCC1)F
reactant | glycolic acid | 0.045 g | C(CO)(=O)O | C2H4O3
product | 2-[(3S)-3-({4-[3-chloro-2-fluoroanilino]-6-methoxyquinazolin-7-yl}oxy)piperidin-1-yl]-2-oxoethanol | 0.105 g | ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O[C@@H]2CN(CCC2)C(CO)=O)C=CC1)F | C22H22ClFN4O4
